US08445490B2
To a solution of ethyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (1.5 g) in DMF (8 mL) was added tert-butyl 6-bromohexylcarbamate (1.1 g) and K2CO3 (0.9 g). The mixture was heated to 65° C. for 16 hours. After cooling to room temperature, the mixture was diluted with EtOAc (250 mL) and washed with water (50 mL) and brine (50 mL). The organic layer was dried over MgSO4 and concentrated. The residue was purified by recrystallization in MeOH to give ethyl 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (1.2 g).

reactant | ethyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 1.5 g | OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C21H20F3N5O4
reactant | tert-butyl 6-bromohexylcarbamate | 1.1 g | BrCCCCCCNC(OC(C)(C)C)=O | C11H22BrNO2
reactant | K2CO3 | 0.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | ethyl 4-(4-(4-(6-(tert-butoxycarbonylamino)hexyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 1.2 g | C(C)(C)(C)OC(=O)NCCCCCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OCC)C=C2)C=C1 | C32H41F3N6O6
